US20010012857A1
A mixture of 5.95 g (20.7 mmol) 4-bromo-1, 1-diphenyl-1-butene (prepared as described in F. A. Ali et al., Med. Chem., 28: 653-660, 1985), 4.71 g (33.7 mmol) glycine ethyl ester hydrochloride (Aldrich, Milwaukee, Wis.), 11.62 g (84 mmol) potassium carbonate and 1.06 g (6.38 mmol) potassium iodide in 50 ml acetonitrile was refluxed with stirring under argon for seven hours. The reaction mixture was filtered, the solvent evaporated and the residue chromatographed on silica gel column with 20% ethyl acetate in hexanes to give 3.70 g (yield 58%) of N-[(4,4-diphenyl)but-3-enyl]glycine ethyl ester (compound A26) as an oil. NMR spectra of the product showed: 1H NMR (CDCl3, 300 MHz) 7.60-7.00 (m, 10 H), 6.09 (t, 1 H), 4.16 (q, 2 H), 3.35 (s, 2 H), 2.71 (t, 2 H), 2.32 (dt, 2 H), 1.25 (t, 3 H), 13C NMR (CDCl3, 75 MHz) 172.29, 143.25, 142.37, 139.82, 129.72, 128.13, 128.04, 127.97, 127.13, 126.92, 126.88, 126.68, 60.56, 50.73, 49.32, 30.33, 14.14.

reactant | 4-bromo-1, 1-diphenyl-1-butene | 20.7 mmol, 5.95 g | BrCCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H15Br
reactant | glycine ethyl ester hydrochloride | 33.7 mmol, 4.71 g | Cl.C(C)OC(CN)=O
reactant | potassium carbonate | 84 mmol, 11.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 6.38 mmol, 1.06 g | [I-].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-[(4,4-diphenyl)but-3-enyl]glycine ethyl ester | 3.70 g, yield 58% | C(C)OC(CNCCC=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H23NO2
